US04575508
(a) Preparation of the starting material 1-(3'-chloropropyl)-2-acetyl-1,2,3,4-tetrahydro-β-carboline
17.1 g (60 millimoles) of 1-(3'-chloropropyl)-1,2,3,4-tetrahydro-β-carboline hydrochloride were dissolved in 240 ml of dimethylformamide while heating, and the solution was then cooled to 5° C. in an ice bath. 11.5 g (150 millimoles) of acetyl chloride and immediately thereafter 23.7 g (300 millimoles) of pyridine were added dropwise to the thoroughly stirred solution, the temperature not rising above 5° C. during this operation. Thereafter, stirring was continued for a further 2 hours at this temperature, after which the reaction mixture was poured onto ice water. The precipitate was filtered off under suction and washed thoroughly with water. 16.9 g (97%) of crystals of melting point 166°-168° C. (ethanol) were isolated.

reactant | 1-(3'-chloropropyl)-1,2,3,4-tetrahydro-β-carboline hydrochloride | 60 millimoles, 17.1 g | Cl.ClCCCC1NCCC=2C3=CC=CC=C3NC12
reactant | acetyl chloride | 150 millimoles, 11.5 g | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 300 millimoles, 23.7 g | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 240 ml | CN(C=O)C | C3H7NO
product | 1-(3'-chloropropyl)-2-acetyl-1,2,3,4-tetrahydro-β-carboline | 16.9 g, 97% | ClCCCC1N(CCC=2C3=CC=CC=C3NC12)C(C)=O | C16H19ClN2O
